// Parasitic metrics — charge injection and clock feedthrough (Spectre DC export).
//
// Macromodel equations match ``switch_model.parasitics``; values are rendered as
// numeric literals on probe nodes so Spectre runs natively and PSF scalars are
// parsed by ``read_spectre_parasitics_psf``.
//
// Run via: python scripts/run_parasitics.py --simulator spectre

simulator lang=spectre

parameters q_inj_c=9e-14
parameters v_inj_v=0.0857142857143
parameters v_cf_v=0.0418604651163
parameters atten_db=-32.6693691116
parameters dummy_reduction_pct=0
parameters q_metric_scale=1e15

Vm_q (mq 0) vsource dc=(q_inj_c * q_metric_scale) type=dc
Vm_v (mv 0) vsource dc=v_inj_v type=dc
Vm_cf (mcf 0) vsource dc=v_cf_v type=dc
Vm_att (matt 0) vsource dc=atten_db type=dc
Vm_dummy (md 0) vsource dc=dummy_reduction_pct type=dc

save mq mv mcf matt md
dcOp dc
